US04673746
To a mixture of 12.5 g of aluminum chloride and 45 ml of carbon disulfide there is added dropwise 7.1 g of 2-fluorobenzoyl chloride while maintaining the temperature below 0° C. This low temperature is maintained for 1.5 hours. While maintaining this same low temperature, 5 g of 2,3-dichlorophenoxyacetic acid is added incrementally. After addition is complete, the reaction mixture is maintained at low temperature for 30 minutes and then permitted to reach ambient temperature after which it is refluxed for 28 hours. The carbon disulfide is decanted from the refluxed solution leaving a dark orange residue which is poured onto a mixture of 500 ml of ice/water and 100 ml of concentrated hydrochloric acid. The resulting pink precipitate is collected by filtration, rinsed with 300 ml of warm water (50° C.) and dried in vacuum oven. The dried product is recrystallized twice from aqueous ethyl alcohol to form the product 2,3-dichloro-4-(2-fluorobenzoyl)phenoxyacetic acid having a melting point of 153° to 156° C.

reactant | aluminum chloride | 12.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-fluorobenzoyl chloride | 7.1 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | 2,3-dichlorophenoxyacetic acid | 5 g | ClC1=C(OCC(=O)O)C=CC=C1Cl | C8H6Cl2O3
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | carbon disulfide | 45 ml | C(=S)=S | CS2
product | 2,3-dichloro-4-(2-fluorobenzoyl)phenoxyacetic acid | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C1=C(C=CC=C1)F)=O | C15H9Cl2FO4
